US06953806B2
0.990 g (3.16 mmol) trans-3-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexyl}-propionic acid methyl ester and 660 mg potassium hydroxide were dissolved in 5.0 ml of ethanol and the reaction mixture heated at reflux for 3 hours. It was then evaporated, subsequently poured into 50 ml of an ice/water mixture, acidified with aqueous hydrochloric acid to pH 5 and extracted 3 times with 50 ml of dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and evaporated under reduced pressure giving 0.900 g (95%) trans-3-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexyl}-propionic acid as colorless viscous oil, MS: 299 (M+).

reactant | trans-3-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexyl}-propionic acid methyl ester | 3.16 mmol, 0.990 g | COC(CC[C@@H]1CC[C@H](CC1)CN(C)C(=O)OC(C)(C)C)=O | C17H31NO4
reactant | potassium hydroxide | 660 mg | [OH-].[K+]
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | trans-3-{4-[(tert-butoxycarbonyl-methyl-amino)-methyl]-cyclohexyl}-propionic acid | 0.900 g, 95% | C(C)(C)(C)OC(=O)N(C)C[C@@H]1CC[C@H](CC1)CCC(=O)O | C16H29NO4
